US07402684B2
(R)-2-(4-Benzoyl-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester:
To a solution of 4-hydroxybenzophenone (200 mg, 1 mmol) in DMF (3 mL) at 0-5° C. was added 60% NaH (70 mg, 1.75 mmol) at 0-5° C. The reaction mixture was stirred at rt for 15 min at 0-5° C. A solution of (R)-2-(Toluene-4-sulfonyloxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (358 mg, 1 mmol) in DMF (2 mL) was added to the above mixture at 0-5° C. The reaction mixture was warmed to rt and then heated at 90° C. for 15 h. The mixture was concentrated, diluted with saturated aq NaHCO3 and extracted with ethyl acetate. The aqueous layer was re-extracted with ethylacetate. The combined organic layers were dried over anhy. MgSO4 and the solvent was removed in vacuo to obtain the crude mixture, which was purified by silica gel flash chromatography to obtain the title product (210 mg, 54%).

reactant | 4-hydroxybenzophenone | 1 mmol, 200 mg | OC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C13H10O2
reactant | NaH | 1.75 mmol, 70 mg | [H-].[Na+]
reactant | (R)-2-(Toluene-4-sulfonyloxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1 mmol, 358 mg | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C17H25NO5S
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (R)-2-(4-Benzoyl-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 210 mg, 54% | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)C(C1=CC=CC=C1)=O | C23H27NO4
